US05084463
Step 3) Preparation of 2-(Methylaminomethyl)-6-nitroquinoline
Methylamine (g) was bubbled through a stirring solution of 2-(chloromethyl)-6-nitroquinoline (5.00 g, 22.47 mmol) in toluene (70 mL) at 0° C. The mixture was slowly warmed to 20° C. over 4 hours, concentrated to 1/2 volume, and partitioned between 10% aqueous K2CO3 /ethyl acetate. The organic phase was dried (MgSO4), decolorized (charcoal) and concentrated. Yield: 4.89 g as a brown solid which was used without purification.

reactant | Methylamine | CN | CH5N
reactant | 2-(chloromethyl)-6-nitroquinoline | 22.47 mmol, 5.00 g | ClCC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C10H7ClN2O2
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(Methylaminomethyl)-6-nitroquinoline | CNCC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C11H11N3O2
